US04072696
1.5 G. of 1-acetamido-2-nitro-4-methoxymethylthiobenzene, also prepared according to Example VIII, is treated for 4 hours in a refluxing mixture of 160 ml. methanol and 40 ml. water with 4 g. of iron powder (added in two portions) and 1 g. ferrous sulfate. The mixture is filtered, and the filtrate concentrated. The residue is dissolved in chloroform and washed with water, then the solvent evaporated to afford 1-acetamido-2-amino-4-methoxymethylthiobenzene.

reactant | 1-acetamido-2-nitro-4-methoxymethylthiobenzene | C(C)(=O)NC1=C(C=C(C=C1)SCOC)[N+](=O)[O-] | C10H12N2O4S
reactant | methanol | CO | CH4O
catalyst | iron | [Fe] | Fe
solvent | water | O | H2O
product | 1-acetamido-2-amino-4-methoxymethylthiobenzene | C(C)(=O)NC1=C(C=C(C=C1)SCOC)N | C10H14N2O2S
